2115-03-14 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2115-3-13**] 10:00 AM
   - Went for CT abdomen per GI recs. Prelim read shows colonic wall
   thickening with ? bleed, ? RP hematoma, ? microperforation. Plan to
   hold off on EGD unless evidence of active bleed.
   - Hypotensive overnight. On neo for pressure support -> improved UOP.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2115-3-13**] 07:55 PM
   Ciprofloxacin - [**2115-3-13**] 11:21 PM
   Metronidazole - [**2115-3-14**] 12:30 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2115-3-13**] 07:55 PM
   Fosphenytoin - [**2115-3-14**] 12:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-3-14**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.3
   HR: 101 (88 - 119) bpm
   BP: 76/53(59) {66/42(48) - 100/73(78)} mmHg
   RR: 30 (13 - 32) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
    Bladder pressure: 12 (12 - 14) mmHg
   Total In:
                                                                  8,127 mL
                                                                    832 mL
   PO:
   TF:
   IVF:
                                                                  5,767 mL
                                                                    832 mL
   Blood products:
                                                                  1,400 mL
   Total out:
                                                                    915 mL
                                                                  1,870 mL
   Urine:
                                                                    915 mL
                                                                  1,170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,212 mL
                                                                 -1,038 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   General: Awake in bed, orients to voice, shakes head in response to
   some Qs, appears generally comfortable
   HEENT: appears ~euvolemic
   CV: RRR, 2/6 systolic ejection murmur
   Lungs: Shallow resp. but seem CTA bilaterally
   Abdomen: Distended
   Labs / Radiology
   143 K/uL
   11.3 g/dL
   100 mg/dL
   0.7 mg/dL
   27 mEq/L
   2.9 mEq/L
   13 mg/dL
   106 mEq/L
   140 mEq/L
   32.3 %
   6.1 K/uL
        [image002.jpg]
                             [**2115-3-13**]  10:16 AM
                             [**2115-3-13**]  12:30 PM
                             [**2115-3-13**]  07:32 PM
                             [**2115-3-14**]  12:20 AM
                             [**2115-3-14**]  03:48 AM
                             [**2115-3-14**]  05:08 AM
   WBC
   7.2
   6.1
   Hct
   24.6
   25.5
   30.4
   32.3
   Plt
   197
   143
   Cr
   0.7
   0.7
   TropT
   <0.01
   Glucose
   300
   100
   Other labs: PT / PTT / INR:16.5/29.3/1.5, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:[**7-31**], Alk Phos / T Bili:99/0.6, Lactic
   Acid:1.2 mmol/L, Ca++:6.2 mg/dL, Mg++:1.5 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   35 y/o M with hx of cerebral palsy, seizure disorder, chronic
   pancreatitis and known gastric varices who is transferred with coffee
   ground emesis and hypotension.
   .
   # GI bleed: has blood in NGT and then coffee ground emesis worrisome
   for new upper GI bleed.  Hct of [**5-9**] not reflect active, ongoing
   bleed.  Getting IVFs and 1u PRBCs now.  Has known gastric varices which
   could be the cause of the bleed.
   - GI consulted and aware of patient, likely need EGD today
   - NPO, NGT in place, will check placement and then keep to LIS
   - PICC for access, try for PIVs
   - protonix 40 mg IV BID
   - complete 1u PRBC transfusion
   - q4hr Hcts, transfuse for hct <27 or active bleeding
   - check lactate
   - surgery following along
   .
   # Hypotension: baseline SBPs in the 80s, but has low BP to 68/doppler
   today.  Is likely secondary to GI bleed and hypovolemia, although could
   be a sign of new early infection, PE, cardiogenic shock or adrenal
   insufficiency.  These etiologies are less likely, though.  He has
   remains afebrile and has no localizing infectious symptoms, although is
   difficult to interview.  Has known SMV clot and has been slightly
   subtherpeutic on his coumadin, so may have other clots and is at risk
   of PE but is not hypoxic or with leg swelling.  No hx of cardiac
   problems or signs of pulm edema suggesting cardiac failure.  And he has
   not been on chronic steroids.
   - fluid resuccitation with IVF boluses and 1u PRBCs for now
   - levofed pressors if needed with SBP goal > 75, MAP >55
   - blood, urine cultures, c.diff
   - continue cipro and flagyl for peritonitis treatment
   - broaden abx by adding vanco for potential line infection, although
   PICC line looks uninfected on exam
   - would be missing VRE coverage and if clinically worsening, consider
   broadening by adding dapto
   - CXR to look for pneumonia
   - KUB to look for obstruction or new obstruction
   - EKG and CEs to rule out cardiac cause
   .
   # Abdominal Pain: was initial presentation and thought to be due to
   peritonitis from microperforations and translocation.  Has had chronic
   abdominal pain this admission with intermittent large bowel
   obstructions and chronically dilated loops of bowel.  Is passing gas
   and stooling.  Did have recent rectal tube for decompression, but fell
   out two nights ago.  Also has signs of chronic pancreatitis and an SMV
   as discussed below.  Pain could be from multiple etiologies.
   - serial abdominal exams
   - f/u final read of KUB, appears stable per HO read
   - abd pain seems at baseline
   - repeat CT abdomen to look for possible new microperf or abscess as
   source of infection, but just had CT two days ago that was stable and
   without obvious source
   - continue pancreatic enzyme repletion
   - hold anticoagulation for thrombus as below
   - morphine PRN
   - surgery following along
   .
   # Peritonitis: although no positive cultures, was presumed to have
   peritonitis on admission and cause of initial presentation.
   - continue cipro/flagyl as above
   - course of cipro/flagyl to complete 2 week course from ___ per floor
   team; consider ID consult if infectious workup positive
   .
   # SMV Thrombus: has a chronic SMV thrombus with good collaterals.  Was
   on lovenox for briding of subtherapeutic INR and on coumadin.
   Reimaging several days ago showed stable clot without progression.
   Vascular surgery was following along and plan was for 6 months of
   anticoagulation and reevaluation at that time.
   - hold lovenox and coumadin in setting of GI bleed
   - consider risks/benefits of long term anticoagulation and consider
   holding based on EGD findings and extent of bleed
   .
   # Anemia: has new baseline anemia around 30 from 35, and fe studies
   suggest iron deficiency.
   - continue fe supplementation after GI workup complete
   - transfuse for hct <25 in setting of bleed
   .
   # Nutrition: has been receiving TPN and GI had been consulted for a PEG
   tube for long term feeding, although wanted to wait for abx course to
   be completed and repeat para if fluid was present to confirm resolution
   of possible peritonitis.  Did tolerated POs for a few days on the floor
   prior to his most recent large bowel obstruction.
   - NPO for now given GI bleeding
   - holding TPN for now for blood tx and boluses
   - restart TPN when stable
   - continue to follow albumin levels; remains hypoalbuminemic
   .
   # Seizure Disorder: is stable, no reports of recent seizures.
   - continue phenobarbitol and phenytoin
   .
   # Cerebral Palsy: stable, is interactive with family although
   non-verbal.  Continue to monitor mental status.
   .
   # FEN: on TPN, holding for access issues today, but will consider based
   on clinical course today; NPO; replete electrolytes as needed.
   # Access: PICC, attempt at PIV
   # PPx: PPI [**Hospital1 **], holding anticoagulation, pneumoboots
   # Communication: with family, mom in particular
   # Code: full, confirmed with family
   # Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2115-3-13**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2115-03-15 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -          episode of hypotension 70/40 MAP 54. Bolus 500cc with
   limited improvement so Phenylephrine restarted.
   -          Per family, feeling better, improved since yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2115-3-13**] 07:55 PM
   Ciprofloxacin - [**2115-3-15**] 12:22 AM
   Metronidazole - [**2115-3-15**] 01:23 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Fosphenytoin - [**2115-3-14**] 04:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-3-15**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.3
   HR: 100 (86 - 113) bpm
   BP: 73/52(57) {71/43(49) - 87/67(72)} mmHg
   RR: 24 (21 - 32) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 37 kg (admission): 120 kg
             Total In:
                                                                  3,285 mL
                                                                    733 mL
   PO:
             TF:
   IVF:
                                                                  3,013 mL
                                                                    730 mL
   Blood products:
   Total out:
                                                                  3,520 mL
                                                                  1,560 mL
   Urine:
                                                                  2,720 mL
                                                                    760 mL
   NG:
                                                                    100 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                   -235 mL
                                                                   -827 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General: Awake in bed, orients to voice, shakes head in response to
   some Qs, appears generally comfortable
   HEENT:  JVP at clavicle, NGT draining ~bilious fluid
   CV: RRR, 2/6 systolic ejection murmur
   Lungs: Shallow resp. but seem CTA bilaterally
   Abdomen: Distended, somewhat firm but does not seem overly TTP, +NABS
   Extremities: Contracted/frail, but good skin integrity, warm/WP
   Labs / Radiology
   155 K/uL
   11.2 g/dL
   106 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.3 mEq/L
   13 mg/dL
   109 mEq/L
   140 mEq/L
   32.6 %
   6.1 K/uL
        [image002.jpg]
                             [**2115-3-13**]  10:16 AM
                             [**2115-3-13**]  12:30 PM
                             [**2115-3-13**]  07:32 PM
                             [**2115-3-14**]  12:20 AM
                             [**2115-3-14**]  03:48 AM
                             [**2115-3-14**]  05:08 AM
                             [**2115-3-14**]  11:16 AM
                             [**2115-3-14**]  01:15 PM
                             [**2115-3-14**]  08:15 PM
                             [**2115-3-15**]  01:50 AM
   WBC
   7.2
   6.1
   6.1
   Hct
   24.6
   25.5
   30.4
   32.3
   33.4
   32.3
   32.6
   Plt
   197
   143
   155
   Cr
   0.7
   0.7
   0.8
   0.9
   TropT
   <0.01
   Glucose
   300
   100
   95
   106
   Other labs: PT / PTT / INR:13.9/24.7/1.2, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:[**7-31**], Alk Phos / T Bili:99/0.6, Lactic
   Acid:1.2 mmol/L, Ca++:7.7 mg/dL, Mg++:3.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   35 y/o M with hx of cerebral palsy, seizure disorder, chronic
   pancreatitis and known gastric varices who is transferred with coffee
   ground emesis and hypotension.
   .
   # Hypotension:  Most likely secondary to GI bleed or RP bleed in the
   setting of anticoagulation for SMV clot.  Baseline SBPs in the 80s,
   today s/p fluid resuscitation and pressure support with pressures
   closer to baseline with good UOP. Still on low-dose phenylephrine.
   - try placing bp cuff on thighs for more accurate read
   - attempt to wean off pressors with goal MAP > 55, SBP > 75
   - continue with IVF, bolus to UOP >50cc/hr
   - transfuse for HCT <25
   - continue  vanc, cipro and flagyl for peritonitis treatment pending
   culture data (however had been on cipro [**Date range (1) 11720**], then restarted [**3-14**]);
   stop cipro/flagyl when negative cultures X48 hrs, maintain vanco until
   PICC line replaced
   - would be missing VRE coverage and if clinically worsening, consider
   broadening by adding dapto
   .
   # GI bleed: Patient with know gastric varices with blood in NGT and
   coffee ground emesis concerning for GI bleed while on Coumadin with
   imaging concerning for GI and / or RP bleed. Patient with improving HCT
   s/p transfusion without evidence of active bleeding.
   - NPO, NGT in place draining bilious fluid to suction
   - coordinate care with GI and surgery
   - PICC for access (no access for PIVs)
   - protonix 40 mg IV BID
   - trend HCT and transfuse for HCT <25
   - hold anticoagulation for now
   ..
   # Peritonitis: although no positive cultures, was presumed to have
   peritonitis on admission and cause of initial presentation.
   - continue Abx as above
   - serial abdominal exams, currently improving
   .
   # SMV Thrombus: has a chronic SMV thrombus with good collaterals.  Was
   on lovenox for briding of subtherapeutic INR and on coumadin.
   Reimaging several days ago showed stable clot without progression.
   Vascular surgery was following along and plan was for 6 months of
   anticoagulation and reevaluation at that time.
   - hold lovenox and coumadin in setting of GI bleed
   - consider risks/benefits of long term anticoagulation and consider
   holding based on EGD findings and extent of bleed
   .
   # Anemia: has new baseline anemia around 30 from 35, and fe studies
   suggest iron deficiency. Also with RP bleed (see above)
   - continue fe supplementation after GI workup complete
   - transfuse for hct <25 in setting of bleed
   .
   # Nutrition: Had been receiving TPN and GI had been consulted for a PEG
   tube for long term feeding, although wanted to wait for abx course to
   be completed and repeat para if fluid was present to confirm resolution
   of possible peritonitis.  Did tolerate POs for a few days on the floor
   prior to his most recent large bowel obstruction.
   - start tube feeds with pancreatic enzyme replacement (tube currently
   in duodenum)
   - TPN ordered, but patient not receiving as no dedicated line
   - continue to follow albumin levels; remains hypoalbuminemic
   .
   # Seizure Disorder: is stable, no reports of recent seizures.
   - continue phenobarbitol and phenytoin
   .
   # Yeast in urine
   - Change foley
   .
   # Cerebral Palsy: stable, is interactive with family although
   non-verbal.  Continue to monitor mental status.
   .
   # FEN: on TPN, holding for access issues, starting TFs; replete
   electrolytes as needed.
   # Access: PICC, attempt at PIV
   # PPx: PPI [**Hospital1 **], holding anticoagulation, pneumoboots
   # Communication: with family, mom in particular
   # Code: full, confirmed with family
   # Dispo: ICU for now
 could likely be called out if stable BP off of
   pressors

2115-03-16 06:39:00 Physician Resident Progress Note
Chief Complaint: PICC exchanged.  Patient remains hypotensive but
   asymptomatic, leg blood pressures measured, and slightly higher with
   SBP low 80s.  Foley changed out given yeast in URINE.  Patient called
   out to floor.
   24 Hour Events:
 PICC LINE - STOP [**2115-3-15**] 05:25 PM
 PICC LINE - START [**2115-3-15**] 05:40 PM
   left antecub.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2115-3-15**] 12:22 AM
   Metronidazole - [**2115-3-15**] 07:58 AM
   Vancomycin - [**2115-3-15**] 09:08 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Mild abdominal discomfort
   Flowsheet Data as of  [**2115-3-16**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.2
   HR: 100 (88 - 111) bpm
   BP: 87/52(60) {79/42(53) - 95/70(73)} mmHg
   RR: 18 (16 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 36.5 kg (admission): 32.3 kg
   Height: 55 Inch
             Total In:
                                                                  1,547 mL
                                                                    253 mL
   PO:
             TF:
                                                                    104 mL
                                                                    120 mL
   IVF:
                                                                  1,440 mL
                                                                    133 mL
   Blood products:
   Total out:
                                                                  3,190 mL
                                                                    500 mL
   Urine:
                                                                  1,590 mL
   NG:
                                                                    600 mL
   Stool:
                                                                    500 mL
                                                                    500 mL
   Drains:
   Balance:
                                                                 -1,643 mL
                                                                   -247 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General: Awake in bed, orients to voice, shakes head in response to
   some Qs, appears generally comfortable
   HEENT:  JVP at clavicle, NGT draining ~bilious fluid
   CV: RRR, 2/6 systolic ejection murmur
   Lungs: Shallow resp. but seem CTA bilaterally
   Abdomen: Distended, somewhat firm but does not seem overly TTP, +NABS
   Extremities: Contracted/frail, but good skin integrity, warm/WP
   Labs / Radiology
   132 K/uL
   11.0 g/dL
   112 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.2 mEq/L
   12 mg/dL
   112 mEq/L
   141 mEq/L
   31.6 %
   5.9 K/uL
        [image002.jpg]
                             [**2115-3-13**]  12:30 PM
                             [**2115-3-13**]  07:32 PM
                             [**2115-3-14**]  12:20 AM
                             [**2115-3-14**]  03:48 AM
                             [**2115-3-14**]  05:08 AM
                             [**2115-3-14**]  11:16 AM
                             [**2115-3-14**]  01:15 PM
                             [**2115-3-14**]  08:15 PM
                             [**2115-3-15**]  01:50 AM
                             [**2115-3-16**]  02:30 AM
   WBC
   7.2
   6.1
   6.1
   5.9
   Hct
   24.6
   25.5
   30.4
   32.3
   33.4
   32.3
   32.6
   31.6
   Plt
   197
   143
   155
   132
   Cr
   0.7
   0.7
   0.8
   0.9
   0.8
   Glucose
   300
   100
   95
   106
   112
   Other labs: PT / PTT / INR:13.9/24.7/1.2, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:[**7-31**], Alk Phos / T Bili:99/0.6,
   Differential-Neuts:75.4 %, Lymph:15.7 %, Mono:7.6 %, Eos:1.2 %, Lactic
   Acid:1.2 mmol/L, Ca++:7.7 mg/dL, Mg++:2.7 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RETROPERITONEAL BLEED (RP BLEED), SPONTANEOUS
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   35 y/o M with hx of cerebral palsy, seizure disorder, chronic
   pancreatitis and known gastric varices who is transferred with coffee
   ground emesis and hypotension.
   .
   # Hypotension:  Most likely secondary to GI bleed or RP bleed in the
   setting of anticoagulation for SMV clot. Although patient had reported
   coffee ground emesis on the floor, most likely source of hypotension
   may have been RP bleed given CT findings.  Now off pressors since
   yesterday afternoon, and leg pressures have been stable with SBPs in
   the 70s and 80s.
   - Continue bp cuff on thighs for more accurate read
   - goal MAP > 55, SBP > 75
   - continue with IVF, bolus to UOP >30cc/hr
   - transfuse for HCT <25
   - Cipro flagyl D/cd yesterday given that cx data was negative x 48
   hours. Given history of instrumentation, will continue Vanco until
   cultures finalize
   - would be missing VRE coverage and if clinically worsening, consider
   broadening by adding dapto
   .
   # GI bleed: Patient with know gastric varices with blood in NGT and
   coffee ground emesis concerning for GI bleed while on Coumadin with
   imaging concerning for GI and / or RP bleed. Patient with improving HCT
   s/p transfusion without evidence of active bleeding. Now Hct and HD
   stable with Tfts running.
   - NPO, NGT in place draining bilious fluid to suction
   - Continue protonix 40 mg IV BID
   - trend HCT and transfuse for HCT <25
   - hold anticoagulation for now, but may consider lovenox again in the
   next 24-48 hours
   ..
   # Peritonitis: although no positive cultures, was presumed to have
   peritonitis on admission and cause of initial presentation.
   - continue Abx as above
   - serial abdominal exams, currently improving
   .
   # SMV Thrombus: has a chronic SMV thrombus with good collaterals.  Was
   on lovenox for bridging of subtherapeutic INR and on coumadin.
   Reimaging several days ago showed stable clot without progression.
   Vascular surgery was following along and plan was for 6 months of
   anticoagulation and reevaluation at that time.
   - hold lovenox and coumadin in setting of GI bleed
   - consider risks/benefits of long term anticoagulation and consider
   holding based on EGD findings and extent of bleed
   .
   # Anemia: has new baseline anemia around 30 from 35, and fe studies
   suggest iron deficiency. Also with RP bleed (see above)
   - continue fe supplementation after GI workup complete
   - transfuse for hct <25 in setting of bleed
   .
   # Nutrition: Had been receiving TPN and GI had been consulted for a PEG
   tube for long term feeding, although wanted to wait for abx course to
   be completed and repeat para if fluid was present to confirm resolution
   of possible peritonitis.  Did tolerate POs for a few days on the floor
   prior to his most recent large bowel obstruction.
   - start tube feeds with pancreatic enzyme replacement (tube currently
   in duodenum)
   - Hold TPN for now as patient appears to be tolerating TFs well
   - continue to follow albumin levels; remains hypoalbuminemic
   .
   # Seizure Disorder: is stable, no reports of recent seizures.
   - continue phenobarbitol and phenytoin
   .
   # Yeast in urine
   - Change foley
   .
   # Cerebral Palsy: stable, is interactive with family although
   non-verbal.  Continue to monitor mental status.
   .
   # FEN: on TPN, holding for access issues, starting TFs; replete
   electrolytes as needed.
   # Access: PICC, attempt at PIV
   # PPx: PPI [**Hospital1 **], holding anticoagulation, pneumoboots
   # Communication: with family, mom in particular
   # Code: full, confirmed with family
   # Dispo: CALLED OUT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2115-3-15**] 05:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: